US06458780B1
b) 7-Fluoro-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (3.2 ml) and 0.75 ml of tri-n-butylstannyl chloride were added in that order to a solution of 7-fluoroimidazo[5,1-b]thiazole in dry THF in an argon atmosphere at −78° C. The mixture was stirred at the same temperature for 10 min. Water was added thereto, followed by extraction with ethyl acetate and washing with saturated brine. The extract was dried over anhydrous magnesium sulfate and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=7:1) to give 820 mg of the title compound.

reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 3.2 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | tri-n-butylstannyl chloride | 0.75 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 7-fluoroimidazo[5,1-b]thiazole | FC=1N=CN2C1SC=C2 | C5H3FN2S
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 7-Fluoro-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 820 mg | FC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H2FN2S.3C4H9.Sn/c6-4-5-8(3-7-4)1-2-9-5;3*1-3-4-2;/h1,3H;3*1,3-4H2,2H3;
